US08283354B2
To a suspension of 2-amino-4-methylbenzoic acid (58.9 g, 390 mmol) in water (1.5 L) and glacial acetic acid (50 ml) was added dropwise a solution of potassium cyanate (80.5 g, 993 mmol) in water (300 ml). After completion of the addition and stirring at room temperature for half an hour, sodium hydroxide pellets (500 g) were added at such a rate that the temperature was kept below 50° C. (with ice cooling). During the addition the mixture became a clear solution for a short period, and upon continuation of the sodium hydroxide addition a cream precipitate started forming. The suspension was cooled to 0-5° C. and the precipitate was collected by filtration and washed twice with water (150 ml). The solid was poured in water (1 L) and was acidified with concentrated aqueous HCl (30%, 150 ml). The solid was collected by filtration and washed with water (150 ml) to yield 7-methylquinazoline-2,4(1H,3H)-dione (57.0 g, 83%) after drying at 45° C. under vacuum.

reactant | 2-amino-4-methylbenzoic acid | 390 mmol, 58.9 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | potassium cyanate | 993 mmol, 80.5 g | [O-]C#N.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1.5 L | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 7-methylquinazoline-2,4(1H,3H)-dione | 57.0 g, 83% | CC1=CC=C2C(NC(NC2=C1)=O)=O | C9H8N2O2
